US06833274B2
Boronophthalide (2.86 g, 21.4 mmol) is added to 18.6 mL of chilled, fuming nitric acid (at 45° C.) in portions over 4 minutes with stirring. The reaction is quenched with ice and water (40 g and 60 mL), then the resulting pale yellow solid is collected on a Büchner filter and washed with 75 mL of water. Drying the solid in vacuo over P2O5 gives 2.72 g (15.2 mmol, 71.0%) 5-Nitroboronophthalide as a pale yellow solid (m.p. 178-179° C.).

reactant | Boronophthalide | 21.4 mmol, 2.86 g | B(O)(O)C1OC(=O)C2=CC=CC=C12 | C8H7BO4
reactant | nitric acid | [N+](=O)(O)[O-] | HNO3
product | 5-Nitroboronophthalide | 15.2 mmol, 2.72 g, 71.0% | [N+](=O)([O-])C=1C=C2C(OC(=O)C2=CC1)B(O)O | C8H6BNO6
